US06713473B1
Carbazole-3-carboxylic acid methyl ester (450 mg) was dissolved in 7 mL of methanol, and the solution was added with 2.5 mL of 2 N aqueous sodium hydroxide, and stirred at 60° C. for 3 hours. Subsequently, the reaction mixture was cooled and then neutralized with hydrochloric acid, and the deposited precipitates were collected to obtain 410 mg of carbazole-3-carboxylic acid. The resulting carbazole-3-carboxylic acid (205 mg), 6-(1-naphthalenesulfonyl)aminopentylamine (292 mg) obtained in the example and WSC (192 mg) were dissolved in 5 mL of DMF and stirred at room temperature for 3 hours. The reaction mixture was added with water and extracted with ethyl acetate. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (eluent: chloroform/methanol=95/5) to obtain 123 mg of the compound, 3-(1-naphthylsulfonylaminopentylaminocarbonyl)carbazole.

reactant | Carbazole-3-carboxylic acid methyl ester | 450 mg | COC(=O)C=1C=CC=2NC3=CC=CC=C3C2C1 | C14H11NO2
reactant | sodium hydroxide | 2 N, 2.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 7 mL | CO | CH4O
product | carbazole-3-carboxylic acid | 410 mg | C1=CC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
